US08859768B2
A mixture of ethyl 2-[2-(acetylamino)-5-methylpyridin-4-yl]-4-iodo-1,3-oxazole-5-carboxylate (0.14 g, 0.33 mmol), (2-chlorophenyl)boronic acid (0.076 g, 0.49 mmol), tetrakis(triphenylphosphine)palladium(0) (0.038 g, 0.032 mmol), and cesium carbonate (0.53 g, 1.62 mmol) in 1,4-dioxane (4.5 mL) and water (0.2 mL) was subjected to microwave irradiation at 150° C. for 20 min. The reaction mixture was filtered and the filtrate was concentrated. To the residue were added MeOH (10 mL) and aqueous NaOH (0.5 M, 1.5 mL). The mixture was allowed to stir at rt for 8 h and then concentrated to give 2-[2-(acetylamino)-5-methylpyridin-4-yl]-4-(2-chlorophenyl)-1,3-oxazole-5-carboxylic acid which was used in next step without further purification.

reactant | ethyl 2-[2-(acetylamino)-5-methylpyridin-4-yl]-4-iodo-1,3-oxazole-5-carboxylate | 0.33 mmol, 0.14 g | C(C)(=O)NC1=NC=C(C(=C1)C=1OC(=C(N1)I)C(=O)OCC)C | C14H14IN3O4
reactant | (2-chlorophenyl)boronic acid | 0.49 mmol, 0.076 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | cesium carbonate | 1.62 mmol, 0.53 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 4.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.2 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.032 mmol, 0.038 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[2-(acetylamino)-5-methylpyridin-4-yl]-4-(2-chlorophenyl)-1,3-oxazole-5-carboxylic acid | C(C)(=O)NC1=NC=C(C(=C1)C=1OC(=C(N1)C1=C(C=CC=C1)Cl)C(=O)O)C | C18H14ClN3O4
